US08106070B2
Dess-Martin periodinane (2.94 g, 6.92 mmol) was added to an ambient temperature solution of 2-(acetylamino)-3-(4-bromophenyl)-N-(2-hydroxy-4,4-dimethylhexyl)propanamide (1.43 g, 3.46 mmol) in methylene chloride (100 mL). After stirring at ambient temperature for 2 h, the reaction mixture was quenched with saturated aqueous sodium thiosulfate/saturated aqueous sodium bicarbonate (1:1) and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-80% acetone/methylene chloride afforded 2-(acetylamino)-3-(4-bromophenyl)-N-(4,4-dimethyl-2-oxohexyl)propanamide.

reactant | Dess-Martin periodinane | 6.92 mmol, 2.94 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-(acetylamino)-3-(4-bromophenyl)-N-(2-hydroxy-4,4-dimethylhexyl)propanamide | 3.46 mmol, 1.43 g | C(C)(=O)NC(C(=O)NCC(CC(CC)(C)C)O)CC1=CC=C(C=C1)Br | C19H29BrN2O3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(acetylamino)-3-(4-bromophenyl)-N-(4,4-dimethyl-2-oxohexyl)propanamide | C(C)(=O)NC(C(=O)NCC(CC(CC)(C)C)=O)CC1=CC=C(C=C1)Br | C19H27BrN2O3
